US07238716B2
A mixture of methyl 2-[3-chloro-4-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]acetate. (0.47 g), a 1N aqueous sodium hydroxide solution (3 mL), tetrahydrofuran (5 mL) and methanol (5 mL) was stirred at room temperature for 1 hr. The reaction mixture was poured into water and acidified with 1N hydrochloric acid. The precipitated solid was collected by filtration and dried with air to give crystals (0.43 g, yield 94%) of 2-[3-chloro-4-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]acetic acid. Recrystallization from ethyl acetate-methanol gave colorless prism crystals. melting point: 150-151° C.

reactant | methyl 2-[3-chloro-4-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]acetate | ClC=1C=C(C=CC1SCC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)CC(=O)OC | C27H24ClNO4S
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2-[3-chloro-4-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]phenyl]acetic acid | 0.43 g, yield 94% | ClC=1C=C(C=CC1SCC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)CC(=O)O | C26H22ClNO4S
